US07612114B2
6-{2-{[3-Fluoro-4-(2-piperidin-1-ylethoxy)benzyl]isopropylamino}-4-hydroxyphenyl}-5,6,7,8-tetrahydronaphthalen-2-ol
Synthesized from isopropyl[5-methoxy-2-(6-methoxy-1,2,3,4-tetrahydronaphthalen-2-yl)phenyl]amine and 3-fluoro-4-(2-piperidin-1-ylethoxy)benzoic acid hydrochloride according to an analogous synthetic method to Example 152, [3-fluoro-4-(2-piperidin-1-ylethoxy)benzyl]isopropyl [5-methoxy-2-(6-methoxy-1,2,3,4-tetrahydronaphthalen-2-yl)phenyl]amine (402 mg) was used according to an analogous synthetic method to Example 111 to provide the title compound (262 mg).

reactant | isopropyl[5-methoxy-2-(6-methoxy-1,2,3,4-tetrahydronaphthalen-2-yl)phenyl]amine | C(C)(C)NC1=C(C=CC(=C1)OC)C1CC2=CC=C(C=C2CC1)OC | C21H27NO2
reactant | 3-fluoro-4-(2-piperidin-1-ylethoxy)benzoic acid hydrochloride | Cl.FC=1C=C(C(=O)O)C=CC1OCCN1CCCCC1
reactant | [3-fluoro-4-(2-piperidin-1-ylethoxy)benzyl]isopropyl [5-methoxy-2-(6-methoxy-1,2,3,4-tetrahydronaphthalen-2-yl)phenyl]amine | 402 mg | FC=1C=C(CN(C2=C(C=CC(=C2)OC)C2CC3=CC=C(C=C3CC2)OC)C(C)C)C=CC1OCCN1CCCCC1 | C35H45FN2O3
product | 6-{2-{[3-Fluoro-4-(2-piperidin-1-ylethoxy)benzyl]isopropylamino}-4-hydroxyphenyl}-5,6,7,8-tetrahydronaphthalen-2-ol | 262 mg | FC=1C=C(CN(C2=C(C=CC(=C2)O)C2CC=3C=CC(=CC3CC2)O)C(C)C)C=CC1OCCN1CCCCC1 | C33H41FN2O3
